US04997977
2,4,6-Trinitrophenylacetic acid (mp 159°-160° C.) is prepared from 1-chloro-2,4,6-trinitrobenzene and ethyl malonate in the presence of metallio sodium in accordance with a procedure by M. Kimura in J. Pharm. Soc. Jpn., 73, 1216 (1953).

reactant | 1-chloro-2,4,6-trinitrobenzene | ClC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C6H2ClN3O6
reactant | ethyl malonate | C(CC(=O)[O-])(=O)OCC
reactant | sodium | [Na] | Na
product | 2,4,6-Trinitrophenylacetic acid | [N+](=O)([O-])C1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])CC(=O)O | C8H5N3O8
